Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
amoxicillin
 
Attending: ___.
 
Chief Complaint:
sensory changes 
 
Major Surgical or Invasive Procedure:
Lumbar puncture

 
History of Present Illness:
The patient is a ___ old vegetarian man with childhood
lumbar spondylosis who presented with two months of numbness
extending from his left costal margin downward in the setting of
___ months of lower back pain. 

He was seen by ___ on ___, who found a T8 sensory 
level
on the left and sent him for MRI ___ as well as labs which
showed normal B12, folate, TSH and no leukocytosis as well as
negative Lyme and RPR. MRI ___ showed a "2 cm long segment 
of
enhancing T2 hyperintense peripheral right ventral T6 and T7
cord, with associated cord expansion without definitive
underlying mass." 

Because of these findings he was asked to come in for expedited
workup.  

The history below obtained during his visit with ___ is
described below: 
"He relates about 9 to 12 months ago, he developed a fairly 
sharp
of low back pain that radiate down his buttocks and his leg.  
The
feeling was that he might have an underlying sciatica.  He was
started on gabapentin 300 mg three
times a day.  He really did not feel that the medication has
helped him in a certain degree and he came off of the 
medication.
 His symptoms at that time spontaneously resolved and currently
only has at times a little bit of aching in the lower back.

He then two to three months ago, began noticing numbness just
below his rib cage on the left, affecting both the anterior and
posterior aspects of his trunk, involving his scrotum, and then
his entire left leg.  He had no apparent weakness.  He saw Dr.
___ in the ___ who noted that he had decreased
sensitivity in his abdomen as well as a feeling of icy hot
sensation below the lower end of his rib cage.  He had no bowel
or bladder incontinence, no particular weakness.  He does tell 
me
that the symptoms started fairly abruptly in onset.  He has no
midline back pain.

Dr. ___ on examination noted slightly increased reflexes in his
lower extremities.  His toes were down.  There was some question
of trace weakness in hip flexion on the left.  He had a sensory
level around the T9 level in his left abdomen and leg.  He did
have an MRI of the ___ that was again reviewed here as well 
and
revealed with Dr. ___ showed a disc bulge at L5-S1 and
annular tear at L4-L5.  There also was a broadbased disc bulge 
at
the T12-L1 level, there were also was a disc bulge at the 
T11-T12
level, causing some more right-sided thecal sac deformity as 
well
as mild-to-minimal right-sided neural foraminal narrowing.  Dr.
___ not feel that this would cause the left-sided
symptoms."

In addition to this history, he again denies any recent illness
prior to onset of his symptoms. However, his daughter was
diagnosed with Giardia diarrhea and his son also had a diarrheal
illness. He and his whole family was tested and no one else had
Giardia. 

He notes abdominal rash that spreads to both sides at around
T8/T9 across the midline. It is not pruritic and not painful
present for several months. Denies any myalgias, joint pain,
joint stiffness. No recent tick bite. 

On neurologic review of systems, the patient denies headache,
lightheadedness, or confusion. Denies difficulty with producing
or comprehending speech. Denies loss of vision, blurred vision,
diplopia, vertigo, tinnitus, hearing difficulty, dysarthria, or
dysphagia. Denies focal muscle weakness. Denies bowel or bladder
incontinence or retention. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills. Denies cough, shortness of breath, runny nose.  Denies
nausea, vomiting, diarrhea, constipation or abdominal pain.  No
recent change in bowel or bladder habits.  No dysuria.  Denies
arthralgias or myalgias. Denies rash.

 
Past Medical History:
Knee surgery in ___
Vegetarian aside from fish. 
Low back pain                                        

 
Social History:
___
Family History:
Noncontributory 
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
Vitals: 98.7F, HR 68, 139/77, RR 16, 100% RA

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ at 5 minutes. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: Decreased light touch and pinprick on left compared to
right at around T6 and below including whole left leg. No
deficits cold sensation, proprioception throughout. No 
extinction
to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  3  3    3    3   2
R  3  3    3    3   2
Plantar response was flexor bilaterally. Crossed adductors and
pectoral jerks present bilaterally. No Hoffmans. One beat ankle
clonus bilaterally. 

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

DISCHARGE PHYSICAL EXAM:
-Vitals within normal limits
-Gen: awake, alert, healthy, well appearing male
-HEENT: normocephalic atraumatic
-CV: warm, well perfused
-Pulm: breathing non labored
-Abdomen: soft, nontender, nondistended
-Extremities: no edema

Neurologic:
-Mental Status: awake, alert and oriented to self, place time 
and situation. Able to recall history coherently. Easily 
maintains attention to examiner. Speech fluent with no 
dysarthria. 
-CN: gaze conjugate, ___ 3>2, EOMI, Mild R eyelid droop, no 
nystagmus, no saccadic intrusions, face symmetric, tongue 
midline, palate elevates symmetrically.
-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally. No adventitious movements, such as tremor, noted. 
No asterixis. Muscle strength full throughout.
-Sensory:  Decreased sensation to pinprick and temperature in 
left T9-10 sensory area and below. Right sided sensation normal. 
Mildly decreased sensation to vibration in left toe, otherwise 
normal. Sensation to fine touch preserved.
- Gait: normal stance, narrow based, able to tandem walk without 
difficulty. 
 
Pertinent Results:
___ 10:00AM BLOOD WBC-4.9 RBC-5.04 Hgb-15.3 Hct-46.7 MCV-93 
MCH-30.4 MCHC-32.8 RDW-12.1 RDWSD-41.2 Plt ___
___ 07:49PM BLOOD Neuts-71.6* Lymphs-18.6* Monos-7.9 
Eos-1.3 Baso-0.3 Im ___ AbsNeut-5.01 AbsLymp-1.30 
AbsMono-0.55 AbsEos-0.09 AbsBaso-0.02
___ 10:00AM BLOOD Plt ___
___ 10:00AM BLOOD Glucose-92 UreaN-9 Creat-0.9 Na-141 K-4.9 
Cl-104 HCO3-28 AnGap-14
___ 10:00AM BLOOD Calcium-9.8 Phos-2.6* Mg-2.0
___ 05:15AM BLOOD %HbA1c-5.0 eAG-97
___ 10:00AM BLOOD ANCA-NEGATIVE B
___ 05:15AM BLOOD ANCA-NEGATIVE B
___ 10:00AM BLOOD CRP-1.4
___ 05:15AM BLOOD ___ * Titer-1:40 dsDNA-NEGATIVE
___ 05:15AM BLOOD RheuFac-<10
___ 10:00AM BLOOD CAMPYLOBACTER JEJUNI ANTIBODY, ___
___ 10:00AM BLOOD SED RATE-Test      
___ 10:00AM BLOOD ANGIOTENSIN 1 - CONVERTING ___      
___ 05:15AM BLOOD ZINC-Test      
___ 05:15AM BLOOD COPPER (SERUM)-Test      
___ 05:15AM BLOOD VITAMIN E-Test      
___ 05:15AM BLOOD RO & ___      
___ 05:15AM BLOOD HTLV I AND II, WITH REFLEX TO WESTERN 
BLOT-PND
___ 05:15AM BLOOD ANGIOTENSIN 1 - CONVERTING ___      
___ 05:15AM BLOOD NEUROMYELITIS OPTICA 
(NMO)/AQUAPORIN-4-IGG CELL-BINDING ASSAY, SERUM-Test Name 
 
Brief Hospital Course:
#Transverse Myelitis
Patient presented with a 2 month history of left torso and leg 
numbness. Neurologic exam notable for decreased sensation to 
light touch and proprioception in left T6 and below on 
admission, and an abdominal, non-vesicular rash.  Patient also 
had mild right eyelid depression on exam, however this was not 
consistent with either Horners or CN3 abnormality (likely mild 
eyelid edema).  Outpatient workup was notable for MRI ___ 
with T2 hyperintensity in T6-7 that enhanced--however patient's 
symptoms had remained stable.  

While in house, patient underwent lumbar puncture, with normal 
routine studies. Lyme was negative. Normal ESR and CRP.  Broad 
range of autoimmune and infectious studies were sent which were 
pending. He did have improvement in the sensory level of his 
symptoms, as his dysthesia started at T6-7 area however was 
T9-10 by time of discharge. 

At time of discharge, etiology remained unclear, but patient was 
clinically well and stable for discharge. His symptoms were in 
no way interfering with his daily functioning.  Differential was 
thought to be most likely a post-infectious myelitis given 
preceding diarrhea, that would hopefully slowly improve with 
time. Differential also included initial presentation of 
demyelinating disease (i.e. multiple sclerosis), 
autoimmune/rheumatologic conditions (Vasculitis, Sarcoid), and 
paraneoplastic etiologies. 

TRANSITIONAL ISSUES:
-To follow up with Dr. ___ discharge 

Notable pending labs at time of discharge:
- CSF MS, oligoclonal bands and NMO 
- CSF lymphoma, cytology (? C jejuni)
- CSF ACE level 
- Testing for C jejuni IgG and IgM (if possible)  
- CT chest/abdomen/pelvis as outpatient for malignancy workup 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Moderate  
2.  Ibuprofen 600-800 mg PO Q6H:PRN Pain - Moderate  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lesion in the thoracic spinal cord. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 
You were admitted with left sided numbness and abnormal 
sensation. This is caused by a lesion in your spinal cord. We 
are looking into the cause of this lesion, and have sent off 
many blood and spinal fluid tests. 
You developed neck and back ache after the spinal tap, and we 
expect this to improve over the coming days. Please call Dr. 
___ or the hospital operator (___) and ask 
to page the neurology resident on call if you have any concerns.

Please follow up as listed below.  

Sincerely, 
Your ___ Neurology Team

 
Followup Instructions:
___